US03992389
1-[2-(2,6-Dichlorophenyl)ethyl]-4-benzamidopiperidine.
2-(2,6-Dichlorophenyl)ethyl bromide (674 mg.) was reacted with 4-benzamidopiperidine (547 mg.) in the presence of anhydrous potassium carbonate (736 mg.) following the procedure of Example 37 to give the title compound as the hydrochloride (412 mg) m.p. 285.7° C after crystallisation from ethanolic hydrogen chloride and ether. (Found: C, 58.0; H, 5.6; N, 6.7. C20H22Cl2N2O. HCl requires C, 58.05; H, 5.6; N, 6.8%).

reactant | 2-(2,6-Dichlorophenyl)ethyl bromide | 674 mg | ClC1=C(C(=CC=C1)Cl)CCBr | C8H7BrCl2
reactant | 4-benzamidopiperidine | 547 mg | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | potassium carbonate | 736 mg | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-(2,6-Dichlorophenyl)ethyl]-4-benzamidopiperidine | 412 mg | ClC1=C(C(=CC=C1)Cl)CCN1CCC(CC1)NC(C1=CC=CC=C1)=O | C20H22Cl2N2O
